US07456176B2
[7-(2-chloro-5-methoxy-phenyl)-6-methyl-benzo[1,2,4]triazin-3-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (0.553 mmol, 1.0 equiv) was dissolved in 10 mL anhydrous DCM and stirred under an argon atmosphere. 6 mL of BBr3 (0.1 M) was added via syringe and the reaction was stirred at room temperature for 2 h. BBr3 was quenched with saturated NaHCO3 until pH=7. The mixture was filtered and washed with water and Et2O to give 4-chloro-3-{6-methyl-3-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-benzo[1,2,4]triazin-7-yl}-phenol, as a dark green solid (245.2 mg 93% yield). Rf=0.65 (9:1 DCM/MeOH) 1H NMR (DMSO-d6): δ 1.69 (m, 4H), 2.24 (s, 3H), 2.54 (m, 4H), 2.79 (t, J=5.9 Hz, 2H), 4.07 (t, J=5.9 Hz, 2H), 6.78 (d, J=2.9 Hz, 1H), 6.87 (dd, J=8.8 Hz, J=2.9 Hz, 1H), 6.95 (d, J=11.9 Hz, 2H), 7.38 (dd, J=8.8 Hz, J=3.6 Hz, 1H), 7.65 (s, 1H), 7.85 (s, J=9.1 Hz, 2H), 7.98 (s, 1H), 9.93 (s, 1H), 10.67 (s, 1H). MS (ES+): m/z=476. LC retention time 2.32 min.

reactant | [7-(2-chloro-5-methoxy-phenyl)-6-methyl-benzo[1,2,4]triazin-3-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 0.553 mmol, 1.0 equiv | ClC1=C(C=C(C=C1)OC)C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)OCCN2CCCC2)C=C1C | C27H28ClN5O2
reactant | BBr3 | 0.1 M, 6 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-3-{6-methyl-3-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-benzo[1,2,4]triazin-7-yl}-phenol | 93% yield | ClC1=C(C=C(C=C1)O)C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)OCCN2CCCC2)C=C1C | C26H26ClN5O2
